US07144888B2
N-{4-[6-(2-Amino-4-trifluoromethyl-phenyl)-pyrimidin-4-yloxy]-benzothiazol-2-yl}-acetamide.
To {2-[6-(2-acetylamino-benzothiazol-4-yloxy)-pyrimidin-4-yl]-5-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester, (Example 150) (0.35 g, 0.60 mmol) was added 4 M HCl in dioxane (25 mL). The mixture was stirred for 16 h and then was concentrated in vacuum. The residue was dissolved in ethyl acetate (40 mL) and washed with saturated NaHCO3 (2×70 mL), dried over Na2SO4 and concentrated in vacuum. Purification by silica gel chromatography (2:1, EtOAc:hexanes) afforded the title compound as thick yellow oil. Mp: 160–161° C. MS (ESI, pos. ion) m/z: 446 (M+1). Anal. Calcd for C20H14F3N5O2S.0.4H2O: C, 53.07; H, 3.30; F, 15.47; N, 12.59. Found: C, 53.12; H, 3.27; F, 15.19; N, 12.70.

reactant | {2-[6-(2-acetylamino-benzothiazol-4-yloxy)-pyrimidin-4-yl]-5-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)C(F)(F)F)C1=NC=NC(=C1)OC1=CC=CC2=C1N=C(S2)NC(C)=O)=O | C25H22F3N5O4S
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | N-{4-[6-(2-Amino-4-trifluoromethyl-phenyl)-pyrimidin-4-yloxy]-benzothiazol-2-yl}-acetamide | NC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O | C20H14F3N5O2S
